US09403832B2
Part A. (S)-2-amino-1-(4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazin-1-yl)-3-methylbutan-1-one
3-bromo-5-(piperazin-1-yl)pyrazolo[1,5-a]pyrimidine (400 mg, 1.42 mmol) Boc-L-Leucine (392 mg, 1.7 mmol), HATU (490 mg, 2.13 mmol), and triethylamine (788 uL, 5.7 mmol) taken up in DMF and stirred at room temperature overnight. Reaction diluted with DCM washed with water, DCM layer then dried over magnesium sulfate filtered and reduced in Vacuo. This was then taken up in 26 mL DCM and 4 mL TFA added. Stirred 1 hour until complete by LC/MS. Reaction was washed with 1N NaOH, DCM layer removed dried over magnesium sulfate filtered, reduced in vacuo to obtain 349 mg crude product for further reaction as is. LRMS (ESI) m/z 381/383 [(M+H)]+, calc'd for C15H21BrN6O: 381.28.

reactant | 3-bromo-5-(piperazin-1-yl)pyrazolo[1,5-a]pyrimidine | 1.42 mmol, 400 mg | BrC=1C=NN2C1N=C(C=C2)N2CCNCC2 | C10H12BrN5
reactant | HATU | 2.13 mmol, 490 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 5.7 mmol, 788 uL | C(C)N(CC)CC | C6H15N
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-2-amino-1-(4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazin-1-yl)-3-methylbutan-1-one | 349 mg | N[C@H](C(=O)N1CCN(CC1)C1=NC=2N(C=C1)N=CC2Br)C(C)C | C15H21BrN6O
